US07786110B2
3-(5-Isopropyl-thiazol-4-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid was reacted with C-(6-methyl-pyridazin-3-yl)-methylamine using the procedure of Example 2 to give 3-(5-isopropyl-thiazol-4-yl)-N-(6-methyl-pyridazin-3-ylmethyl)-5-(5-methyl-pyridin-2-yl)-benzamide, MS (M+H)=444.

reactant | 3-(5-Isopropyl-thiazol-4-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid | C(C)(C)C1=C(N=CS1)C=1C=C(C(=O)O)C=C(C1)C1=NC=C(C=C1)C | C19H18N2O2S
reactant | C-(6-methyl-pyridazin-3-yl)-methylamine | CC1=CC=C(N=N1)CN | C6H9N3
product | 3-(5-isopropyl-thiazol-4-yl)-N-(6-methyl-pyridazin-3-ylmethyl)-5-(5-methyl-pyridin-2-yl)-benzamide | C(C)(C)C1=C(N=CS1)C=1C=C(C(=O)NCC=2N=NC(=CC2)C)C=C(C1)C1=NC=C(C=C1)C | C25H25N5OS
